US03947456
The free base obtained from 4.0 g. of rac.-1,2,3,4-tetrahydro-7-methoxy-2-methyl-4-(3-nitrophenyl)isoquinoline hydrochloride is heated to 150°C. (bath-temperature) for 1.5 hours with 60 ml. of 48% hydrogen bromide solution. After concentration and partitioning between sodium bicarbonate solution and ethyl acetate, acidification with ethanolic hydrogen chloride, crystallization with ether and recrystallization from methanol-ether, there is obtained colorless rac.-1,2,3,4-tetrahydro-2-methyl-4-(3-nitrophenyl)-7-isoquinolinol hydrochloride of melting point 257°-258°C. (dec.).

reactant | rac.-1,2,3,4-tetrahydro-7-methoxy-2-methyl-4-(3-nitrophenyl)isoquinoline hydrochloride | Cl.COC1=CC=C2C(CN(CC2=C1)C)C1=CC(=CC=C1)[N+](=O)[O-]
reactant | hydrogen bromide | Br | BrH
product | rac.-1,2,3,4-tetrahydro-2-methyl-4-(3-nitrophenyl)-7-isoquinolinol hydrochloride | Cl.CN1CC2=CC(=CC=C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])O | InChI=1S/C16H16N2O3.ClH/c1-17-9-12-8-14(19)5-6-15(12)16(10-17)11-3-2-4-13(7-11)18(20)21;/h2-8,16,19H,9-10H2,1H3;1H
